US07230098B2
To a solution of 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenylamine (5.00 g, 22.8 mmol) in methylene chloride (100 mL) and 4-methylmorpholine (16 mL) at 0° C. was added methanesulfonyl chloride (2.1 mL, 28 mmol). The mixture was stirred at room temperature for 2 hr, and diluted with ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate and concentrated to provide N-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-methanesulfonamide as a white solid (6.32 g, 93% yield). MS m/z 298 (M+1).

reactant | 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenylamine | 22.8 mmol, 5.00 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)N)C | C12H18BNO2
reactant | methanesulfonyl chloride | 28 mmol, 2.1 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | 4-methylmorpholine | 16 mL | CN1CCOCC1 | C5H11NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-methanesulfonamide | 6.32 g, 93% yield | CC1(OB(OC1(C)C)C1=CC=C(C=C1)NS(=O)(=O)C)C | C13H20BNO4S
